US04532303
A process of claim 1 wherein a homopolymer of 2-isopropenyloxazoline is reacted with sodium bisulfite in order to provide a homopolymer of 2-acrylamido-ethane-1-sulfonic acid.

reactant | 2-isopropenyloxazoline | C(=C)(C)C=1OCCN1 | C6H9NO
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
product | 2-acrylamido-ethane-1-sulfonic acid | C(C=C)(=O)NCCS(=O)(=O)O | C5H9NO4S
